US05254571
3-Cyano-6-(2 methoxyphenyl)-2(1H)-pyridinone
A stirred mixture of 3-dimethylamino-1-(2-methoxyphenyl)-2-propene-1-one (5.74 g), cyanoacetamide (2.48 g) and sodium methoxide (from sodium hydride (50%, 4.32 g) and methanol (3.5 ml)) in dry dimethylformamide was heated under reflux for 10 hours. The reaction mixture was poured into water, acidified to pH4 with glacial acetic acid and extracted with ethyl acetate. The ethyl acetate extract was evaporated under reduced pressure to low volume and water was added to cause precipitation of a crude product (3.67 g) which was collected and recrystallised twice from dimethylformamide to yield the title compound, 1.68 g, m.p. 236°-238° C.

reactant | 3-dimethylamino-1-(2-methoxyphenyl)-2-propene-1-one | 5.74 g | CN(C=CC(=O)C1=C(C=CC=C1)OC)C | C12H15NO2
reactant | cyanoacetamide | 2.48 g | C(#N)CC(=O)N | C3H4N2O
reactant | sodium methoxide | 3.5 ml, 4.32 g | C[O-].[Na+]
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-Cyano-6-(2 methoxyphenyl)-2(1H)-pyridinone | C(#N)C=1C(NC(=CC1)C1=C(C=CC=C1)OC)=O | C13H10N2O2
